US04242272
73.2 g (725 millimol) of dichlorosilane, and 92.7 g (890 millimol) of styrene were reacted in the presence of 0.1164 g (1.68×10-4 mol) of chlorotris(triphenylphosphine)rhodium (I) as in example 3 at 100° C. for 16 hours and then the reacted liquid was distilled to obtain 147.6 g of monophenethyldichlorosilane (b.p. 95° C./7 mmHg).

reactant | dichlorosilane | 725 millimol, 73.2 g | Cl[SiH2]Cl | Cl2H2Si
reactant | styrene | 890 millimol, 92.7 g | C=CC1=CC=CC=C1 | C8H8
catalyst | chlorotris(triphenylphosphine)rhodium (I) | 1.68×10-4 mol, 0.1164 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | monophenethyldichlorosilane | 147.6 g | C(CC1=CC=CC=C1)[SiH](Cl)Cl | C8H10Cl2Si
